US06225311B1
To a solution of 0.273 g (0.840 mmol) of (2R)-2-[(4-but-2-ynyloxy-benzenesulfonyl)-methyl-amino]-propionic acid methyl ester in 6 mL of THF/methanol (1/1) was added 0.123 g (2.94 mmol) of lithium hydroxide monohydrate and the resulting solution was stirred at room temperature for 3 h. The reaction was then acidified with 5% HCl solution and extracted with chloroform. The combined organics were dried over MgSO4, filtered and concentrated in vacuo to give 0.256 g of 2-[(4-but-2-ynyloxy-benzenesulfonyl)-methyl-amino]-propionic acid as a white solid. Electrospray Mass Spec 310.2 (M−H)−

reactant | (2R)-2-[(4-but-2-ynyloxy-benzenesulfonyl)-methyl-amino]-propionic acid methyl ester | 0.840 mmol, 0.273 g | COC([C@@H](C)N(C)S(=O)(=O)C1=CC=C(C=C1)OCC#CC)=O | C15H19NO5S
reactant | lithium hydroxide monohydrate | 2.94 mmol, 0.123 g | O.[OH-].[Li+]
reactant | HCl | Cl | ClH
solvent | THF methanol | 6 mL | C1CCOC1.CO
product | 2-[(4-but-2-ynyloxy-benzenesulfonyl)-methyl-amino]-propionic acid | 0.256 g | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)N(C(C(=O)O)C)C | C14H17NO5S
